US06727264B1
N-(3-{1-[3-(4- METHOXYPHENYL)-3-PHENOXYPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using N-(3-{1-[3-hydroxy-3-(4-methoxyphenyl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide and phenol: ESMS m/e: 487.4 (M+H)+.

reactant | N-(3-{1-[3-hydroxy-3-(4-methoxyphenyl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide | OC(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=C(C=C1)OC | C25H34N2O3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | N-(3-{1-[3-(4- METHOXYPHENYL)-3-PHENOXYPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | COC1=CC=C(C=C1)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)OC1=CC=CC=C1 | C31H38N2O3
